US07238716B2
Methyl 2-[5-bromo-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate (1.20 g), phenylboronic acid (0.30 g), tetrakis(triphenylphosphine)palladium (0.14 g), 2M aqueous sodium carbonate solution (3.7 mL), methanol (5 mL), and toluene (20 mL) were stirred with heating under reflux for 24 hrs under an argon atmosphere. The reaction mixture was diluted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. After concentration of the organic layer, the residue was subjected to silica gel column chromatography to give crystals (0.89 g, 74%) of methyl 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-5-phenylphenyl]acetate from a fraction eluted with ethyl acetate-hexane (1:6, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 111-112° C.

reactant | Methyl 2-[5-bromo-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate | 1.20 g | BrC=1C=CC(=C(C1)CC(=O)OC)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H24BrNO5
reactant | phenylboronic acid | 0.30 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 3.7 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-5-phenylphenyl]acetate | 0.89 g, 74% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=C(C=C(C=C2)C2=CC=CC=C2)CC(=O)OC)C=C1 | C33H29NO5
